US05998433
e) Synthesis of 6-tert-butoxycarbonyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridine
A solution of 1.753 g (7.711 mmol) of N-tert-butoxycarbonyl-2-(3-thienyl)ethylamine, 0.46 g (15.4 mmol) of powdered paraformaldehyde and 73 mg (0.39 mmol) of p-toluenesulfonic acid monohydrate in 150 ml of toluene was refluxed under dehydrating conditions for 0.5 hours in a Dean-Stark trap. The reaction mixture was cooled to room temperature and diluted with ethyl acetate, after which it was washed with aqueous sodium hydrogen carbonate; the organic layer was dried over anhydrous magnesium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (hexane/ethyl acetate=15/1 to 9/1) to yield the desired product.

reactant | N-tert-butoxycarbonyl-2-(3-thienyl)ethylamine | 7.711 mmol, 1.753 g | C(C)(C)(C)OC(=O)NCCC1=CSC=C1 | C11H17NO2S
reactant | paraformaldehyde | 15.4 mmol, 0.46 g | C=O | CH2O
reactant | p-toluenesulfonic acid monohydrate | 0.39 mmol, 73 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-tert-butoxycarbonyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridine | C(C)(C)(C)OC(=O)N1CC2=C(CC1)C=CS2 | C12H17NO2S
